US07576077B2
8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid tert-butyl ester
6-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid tert-butyl ester (284.6 mg, 0.70 mmol) and 4-methoxy-benzoic acid hydrazide (116.2 mg, 0.70 mmol) under argon in methanol (10 mL) were heated at reflux for 3 days. After cooling, the reaction mixture was diluted with ethyl acetate and then washed with water (3 times) and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Purification by flash chromatography on silica gel using 40-85% ethyl acetate in hexanes afforded the titled compound (72.5 mg, 20%). 1H NMR (CDCl3) δ (ppm): 8.07 (m, 1H), 7.96 (m, 1H), 7.64 (m, 2H), 7.47 (m, 2H), 7.05 (m, 2H), 6.04 (m, 1H), 4.11 (m, 2H), 3.89 (s, 3H), 3.86 (m, 2H), 3.55 (m, 1H), 3.31 (m, 1H), 1.28 (bs, 9H).

reactant | 6-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid tert-butyl ester | 0.70 mmol, 284.6 mg | C(C)(C)(C)OC(=O)N1CCN=C(C1C1=NC(=NO1)C1=CC(=CC=C1)Cl)OC | C18H21ClN4O4
reactant | 4-methoxy-benzoic acid hydrazide | 0.70 mmol, 116.2 mg | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid tert-butyl ester | 72.5 mg, 20% | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)C(=NN2)C2=CC=C(C=C2)OC)C2=NC(=NO2)C2=CC(=CC=C2)Cl | C25H25ClN6O4
